US05965555
C1) 1-(6-Dibutylamino-3-hydroxy-3-methyl-4-hexynyl)-3-methyl-7-propyl-xanthine
6.73 ml (10.77 mmol) of a 15% strength butyllithium solution in n-hexane were slowly added dropwise to a solution of 2.09 ml (10.77 mmol) of N,N-dibutyl-2-propynylamine in 20 ml of tetrahydrofuran at -65° C. The mixture was stirred at -60° C. to -65° C. for one hour and warmed to room temperature, and a solution of 2.0 g (7.18 mmol) of 3-methyl-1-(3-oxobutyl)-7-propylxanthine in 30 ml of tetrahydrofuran was added. The slightly exothermic reaction was complete after 30 minutes. The mixture was adjusted to pH 5-6 with 1 N hydrochloric acid and partitioned between dichloromethane and water. The organic phase was washed with water, dried with magnesium sulfate and concentrated under reduced pressure. The oily crude product was purified by flash chromatography, dichloromethane/methanol =19/0.75.

reactant | butyllithium | C(CCC)[Li]
reactant | N,N-dibutyl-2-propynylamine | 10.77 mmol, 2.09 ml | C(CCC)N(CCCC)CC#C | C11H21N
reactant | 3-methyl-1-(3-oxobutyl)-7-propylxanthine | 7.18 mmol, 2.0 g | CN1C(N(C(C=2N(C=NC12)CCC)=O)CCC(C)=O)=O | C13H18N4O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(6-Dibutylamino-3-hydroxy-3-methyl-4-hexynyl)-3-methyl-7-propyl-xanthine | C(CCC)N(CC#CC(CCN1C(=O)N(C=2N=CN(C2C1=O)CCC)C)(C)O)CCCC | C24H39N5O3
